US07091201B2
(In analogy to a procedure given in J. Am. Chem. Soc. 122 (2000), 1360-1370.) To a suspension of Pd(OAc)2 (455 mg), 2-(di-tert.-butylphosphino)-biphenyl (1.21 g) and K3PO4 (39.6 g) in THF (200 ml) dimethylmalonate (12.85 g) and 1-bromo-3,4-dimethyl-benzene 15.0 g) was added under argon. The mixture was refluxed for 16 h, cooled to rt and diluted with EA (300 ml) and filtered. The filtrate was evaporated and the resulting brown oil was purified on silica gel eluting with heptane:EA 4:1 to 1:1 to give 2-(3,4-dimethyl-phenyl)-malonic acid dimethyl ester (16.2 g) as a colourless oil which slowly crystallises. 1H-NMR (300 MHz, CDCl3): 2.25(s, 3H), 2.26(s, 3H), 3.75(s, 6H), 4.59(s, 1H), 7.10–7.20(m, 3H).

reactant | K3PO4 | 39.6 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 1-bromo-3,4-dimethyl-benzene | 15.0 g | BrC1=CC(=C(C=C1)C)C | C8H9Br
reactant | EA | 300 ml | CC(OCC)=O | C4H8O2
solvent | THF | 200 ml, 12.85 g | C1CCOC1 | C4H8O
catalyst | Pd(OAc)2 | 455 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | 2-(di-tert.-butylphosphino)-biphenyl | 1.21 g | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
product | 2-(3,4-dimethyl-phenyl)-malonic acid dimethyl ester | 16.2 g | COC(C(C(=O)OC)C1=CC(=C(C=C1)C)C)=O | C13H16O4
